2193-11-25 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2193-11-24**] 02:00 PM
 MULTI LUMEN - START [**2193-11-24**] 07:05 PM
 WOUND CULTURE - At [**2193-11-24**] 11:26 PM
   wound culture taken of right ear
 ARTERIAL LINE - START [**2193-11-24**] 11:49 PM
   - seen by ENT who drained middle ear. Cultures sent. Started on cipro
   and dexamethasone eye drops.
   - hypotense at 4:45am, started fluid boluses and considering pressors
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2193-11-24**] 06:42 PM
   Bactrim (SMX/TMP) - [**2193-11-25**] 01:29 AM
   Ceftriaxone - [**2193-11-25**] 06:25 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Insulin - Regular - 12 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-11-25**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   h/o diabetes and HTN.  Had R ear pain and now florid bacterial
   meningitis
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-11-25**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 77 (71 - 96) bpm
   BP: 95/61(74) {88/55(68) - 111/68(83)} mmHg
   RR: 18 (10 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  6,408 mL
                                                                  3,070 mL
   PO:
             TF:
   IVF:
                                                                  2,408 mL
                                                                  3,070 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    250 mL
   Urine:
                                                                  1,350 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,058 mL
                                                                  2,820 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.32/35/101/19/-7
   Ve: 10.6 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Gen: intubated and following commands when weaned from sedation
   Chest: CTAB
   Heart: NRRR no murmurs; difficult to auscultate
   Abdomen: distended; some guarding
   Ext: no edema, warm and well-perfused.
   Labs / Radiology
   132 K/uL
   10.8 g/dL
   158 mg/dL
   1.4 mg/dL
   19 mEq/L
   3.8 mEq/L
   28 mg/dL
   114 mEq/L
   141 mEq/L
   33.1 %
   10.5 K/uL
        [image002.jpg]
                            [**2193-11-25**]  12:27 AM
                            [**2193-11-25**]  03:36 AM
   WBC
   10.5
   Hct
   33.1
   Plt
   132
   Cr
   1.4
   TCO2
   19
   Glucose
   158
   Other labs: PT / PTT / INR:15.4/28.5/1.3, Lactic Acid:2.0 mmol/L,
   Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:1.5 mg/dL
   Imaging: [**2193-11-24**] CXR
   Preliminary Report !! WET READ !!
   New interval R IJ line placement with tip at likely cavoatrial
   junction. No
   evidence of PTX. Othervise no significant interval change.
   CT Ear Preliminary Report !! WET READ !!
   - No definite evidence of coalescent mastoiditis.
   - Opacification of right mastoid air cells.
   - Right middle ear cavity opacification, and fluid in the right
   external
   auditory canal.
   - Ossicular chain wnl.
   - No definite bony covering of the right middle ear, and right mastoid
   (501b:75), which could be either destraction, or deminiralization.
   - Mucosal thickenning in paranasal sinuses.
   Microbiology: [**2193-11-24**] 11:51 pm EAR      Source: Ear, middle ear for
   otitis media.
      GRAM STAIN (Final [**2193-11-25**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
   59 yo M with DM who presents with fever/MS change found to have LP
   consistent with bac. meningitis and mastoiditis.
   .
   # Meningitis: Likely bacerial given purulent LP and GPCs on G stain.
   Likely strep pneumo. Other et. include N. meningidities, lysteria.
   Less likely viral at this time.  Patient with a source for meningitis -
   mastoiditis, making lysteria less likely.  Holding acyclovir at this
   time given low prob of viral infection.  One thing interesting on the
   CSF report was a mention fr intracellular orgamisms.  Patient was in ME
   and is at risk for intracellular orgamisms such as rickettsial
   diseases.  However that would be more likely to present as an aseptic
   meningitis as opposed to an acute bacterial meningitis.  Also, his ear
   cultures are growing GNR and GPR
   - get OSH speciation tomorrow
   -Vancomycin 1g q12; Ceftriaxone 2g q12; Bactrim 500mg q6 - to cover
   listeria given pen allergy
   -Dexamethasone 6mg IV q8
   -Droplet precautions until N.mening ruled out.
   .
   # Respiratory failure/Sepsis: At this time, strongly suspect source is
   acute mastoiditis --> Meningitis.  Have been called by OSH with 2 sets
   positive blood Cx - both GPC.  Patient without evidence of pneumonia,
   Patient intubated given tachypnea and concern for wearing out.  Likely
   tachypnic given underlying sepsis.
   -Mechanical ventilation for now.
   -Supportive care - Head of bed elevation, OG tube, mouth care.
   -CVL
   -A-line
   -Abx per above.
   .
   # Mastoiditis: History consistent with acute mastoiditis.  Given the
   fact that he is diabetic raises the concern for polymicrobial infection
   as well as pseudamonas.  However given the fact that he has GPC in CSF
   andf blood, it is likely that is the causative orgamism.  Ceftriaxone
   is decent for coverage of mastoiditis although does lack pseudamonas
   coverage.  Will defer ABX changes to ENT.
   -f/u ENT recs
   -CT temp bone
   -cont ABX.
   -If does not improve consider involving ID.
   .
   # Diabetes: Currently not well controlled.  Will start insulin gtt
   while intubated.  Resume oral meds when not intubated.
   .
   # HTN: Currently not hypertensive, holding meds.
   .
   # Gout: Holding meds.
   .
   FEN: IVF, replete electrolytes, OG tube, Wills start TF after nutrition
   consult in am.
   Prophylaxis: Subcutaneous heparin
   Access: 2 18g peripherals; CVL
   Code:  Full (discussed with Wife and daughters. )
   Communication: Wife.
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-11-24**] 02:50 PM
   Multi Lumen - [**2193-11-24**] 07:05 PM
   Arterial Line - [**2193-11-24**] 11:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2193-11-25 09:03:00 Physician Attending Progress Note
Chief Complaint: meningitis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 yo man with DM, presented with ear pain, CSF 18K whites, had GPCs in
   chains.  CT with otomastoiditis.  Treated with CTX, vancomycin,
   decadron, and bactrim.  Came here 3:00pm yesterday, intubated for poor
   MS, confusion.  had developped pressor requirement this morning SBP in
   70s.  ENT drained his ear.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2193-11-24**] 02:00 PM
 MULTI LUMEN - START [**2193-11-24**] 07:05 PM
 WOUND CULTURE - At [**2193-11-24**] 11:26 PM
   wound culture taken of right ear
 ARTERIAL LINE - START [**2193-11-24**] 11:49 PM
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2193-11-25**] 01:29 AM
   Ceftriaxone - [**2193-11-25**] 06:25 AM
   Vancomycin - [**2193-11-25**] 08:36 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-11-25**] 06:25 AM
   Other medications:
   dexamethasone 6mg q8h
   chlorhex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-11-25**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 82 (71 - 96) bpm
   BP: 135/78(101) {82/49(61) - 135/78(101)} mmHg
   RR: 19 (10 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 17 (17 - 17)mmHg
   Total In:
                                                                  6,408 mL
                                                                  4,105 mL
   PO:
   TF:
   IVF:
                                                                  2,408 mL
                                                                  4,105 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    353 mL
   Urine:
                                                                  1,350 mL
                                                                    353 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,058 mL
                                                                  3,752 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 11 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.32/35/101/19/-7
   Ve: 12.3 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   132 K/uL
   158 mg/dL
   1.4 mg/dL
   19 mEq/L
   3.8 mEq/L
   28 mg/dL
   114 mEq/L
   141 mEq/L
   33.1 %
   10.5 K/uL
        [image002.jpg]
                            [**2193-11-25**]  12:27 AM
                            [**2193-11-25**]  03:36 AM
   WBC
   10.5
   Hct
   33.1
   Plt
   132
   Cr
   1.4
   TCO2
   19
   Glucose
   158
   Other labs: PT / PTT / INR:15.4/28.5/1.3, Lactic Acid:2.0 mmol/L,
   Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:1.5 mg/dL
   Imaging: CT ear:  right mastoid air cell opacification, and fluid in
   auditor canal.
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 MENINGITIS, BACTERIAL
 DIABETES MELLITUS (DM), TYPE I
   Meningitis:  will continue vanco/CTX/bactrim for GPCs on gram stain.
   Mastoiditis:  had tympanostomy cx with GPRs and GNRs.  continue broad
   spectrum.
   Respiratory failure:  will try and wake up and do SBT today to see how
   he does.
   DM:  was on insulin drip
   Acute renal failure:  unclear baseline creatinine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-11-24**] 02:50 PM
   Multi Lumen - [**2193-11-24**] 07:05 PM
   Arterial Line - [**2193-11-24**] 11:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2193-11-26 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2193-11-25**] 07:00 PM
   - blood cultures from OSH and CSF are strep pneumo. ([**Hospital **] Hospital in
   [**State 254**])
   - GNR and GPR in ear cultures today
   - started on sliding scale insulin and will likely have to be adjusted.
   - patient having mod-severe pain.  On colchicine at home, but gave
   morphine for now.  Consider starting on gout medicine for pain.
   - taking clears
   - denies photophobia, neck/back pain
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2193-11-25**] 08:00 PM
   Bactrim (SMX/TMP) - [**2193-11-26**] 02:15 AM
   Ceftriaxone - [**2193-11-26**] 04:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-11-25**] 10:00 PM
   Haloperidol (Haldol) - [**2193-11-26**] 05:08 AM
   Morphine Sulfate - [**2193-11-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-11-26**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 89 (70 - 94) bpm
   BP: 145/85(107) {100/60(80) - 158/153(156)} mmHg
   RR: 19 (17 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 10 (8 - 349)mmHg
   Total In:
                                                                  5,946 mL
                                                                    586 mL
   PO:
   TF:
   IVF:
                                                                  5,946 mL
                                                                    586 mL
   Blood products:
   Total out:
                                                                  2,218 mL
                                                                    630 mL
   Urine:
                                                                  2,218 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,728 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 520 (520 - 735) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 90%
   ABG: 7.40/27/95.[**Numeric Identifier **]/15/-5
   Ve: 12.6 L/min
   PaO2 / FiO2: 238
   Physical Examination
   GEN: extubated, nad
   SKIN; flushed
   PSYCH: agitated, angry
   CV: RRR, no m/r/g
   PULM: CTAB
   Abd: soft, nt
   EXTR: no edema
   Labs / Radiology
   150 K/uL
   11.4 g/dL
   239 mg/dL
   1.7 mg/dL
   15 mEq/L
   4.2 mEq/L
   30 mg/dL
   110 mEq/L
   138 mEq/L
   34.2 %
   13.6 K/uL
        [image002.jpg]
                            [**2193-11-25**]  12:27 AM
                            [**2193-11-25**]  03:36 AM
                            [**2193-11-25**]  02:18 PM
                            [**2193-11-25**]  04:45 PM
                             [**2193-11-26**]  02:29 AM
   WBC
   10.5
   13.6
   Hct
   33.1
   34.2
   Plt
   132
   150
   Cr
   1.4
   1.6
   1.7
   TCO2
   19
   17
   Glucose
   158
   248
   239
   Other labs: PT / PTT / INR:13.2/26.4/1.1, Differential-Neuts:83.3 %,
   Lymph:14.3 %, Mono:2.2 %, Eos:0.1 %, Lactic Acid:2.0 mmol/L,
   Albumin:3.0 g/dL, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Micro: urine
 no growth;
Ear: GRAM STAIN (Final [**2193-11-25**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Blood culture
 no growth
   CXR (my read): stable widened mediatrinum, no significant pulmonary
   changes visualized (compared to [**11-24**])
   CT head final read:
   IMPRESSION:
   1. Opacification of right mastoid air cells, with fluid in the right
   external
   auditory canal and opacification in the right middle ear cavity. For
   more
   details, please refer to separately-dictated report of concurrent
   dedicated CT
   temporal bone.
   2. Mucosal thickening in the paranasal sinuses, with bilateral mucus
   retention cysts in the maxillary sinuses.
   3. No acute intracranial process on CT.
   NOTE ADDED IN ATTENDING REVIEW: In addition to the chronic findings,
   there are
   fluid levels in both maxillary and sphenoid sinuses, and scattered
   ethmoidal
   air cells, indicative of an acute inflammatory process.
   CT orbit, sella, and IAC w/o contrast final read:
   1. Opacification of mastoid air cells of the right mastoid and few
   mastoid
   air cells of the left mastoid process. Opacification of the right
   middle ear
   cavity, with fluid in the right external auditory canal.
   2. Several foci of possible dehiscence involving the right tegmen
   tympani could reflect adjacent soft tissue, chronic resorption with
   demineralization or frank destruction.
   2. Fluid levels and mucosal thickening in the paranasal sinuses, with
   mucus-retention cysts in the maxillary sinuses.
   COMMENT: Enhanced MRI of the IAC (skull base) and brain is strongly
   recommended, to further evaluate these findings, in particular, dural
   involvement in the suprajacent middle cranial fossa, if warranted on
   clinical
   grounds.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 .H/O HYPOTENSION (NOT SHOCK)
 MENINGITIS, BACTERIAL
 DIABETES MELLITUS (DM), TYPE I
   59 yo M with DM who presents with fever/MS change found to have LP
   consistent with bac. meningitis and mastoiditis.
   .
   # Meningitis: Likely bacerial given purulent LP and GPCs on G stain.
   Likely strep pneumo. Other et. include N. meningidities, lysteria.
   Less likely viral at this time.  Patient with a source for meningitis -
   mastoiditis, making lysteria less likely.  Holding acyclovir at this
   time given low prob of viral infection.  One thing interesting on the
   CSF report was a mention fr intracellular orgamisms.  Patient was in ME
   and is at risk for intracellular orgamisms such as rickettsial
   diseases.  However that would be more likely to present as an aseptic
   meningitis as opposed to an acute bacterial meningitis.  Also, his ear
   cultures are growing GNR and GPR
   - get OSH sensitivities
   -Vancomycin 1g q12; Ceftriaxone 2g q12, continue; check vanco trough
   - d/c bactrim (as strep pneumo, not listeria as the bacteria)
   - Will treat for mastoiditis time course, need to look up time course
   for this.
   -Dexamethasone 6mg IV q8
   .
   # Respiratory failure/Sepsis: At this time, strongly suspect source is
   acute mastoiditis --> Meningitis.  Have been called by OSH with 2 sets
   positive blood Cx - both GPC.  Patient without evidence of pneumonia,
   Patient intubated given tachypnea and concern for wearing out.  Likely
   tachypnic given underlying sepsis.  Resolved
 extubated and breathing
   comfortably.
   -Abx per above.
   .
   # Mastoiditis: History consistent with acute mastoiditis.  Given the
   fact that he is diabetic raises the concern for polymicrobial infection
   as well as pseudamonas.  However given the fact that he has GPC in CSF
   andf blood, it is likely that is the causative orgamism.  Ceftriaxone
   is decent for coverage of mastoiditis although does lack pseudamonas
   coverage.  Will defer ABX changes to ENT.
   -f/u ENT recs
   - clinically improving, so hold on further imaging
   -cont ABX.
   -If does not improve consider involving ID (hold on this).
   .
   # Diabetes: Currently not well controlled.  Was on insulin gtt while
   intubated.  Resumed oral meds now that not intubated.
   - increase glargine
   - increase ISS (particularly while on steroids)
   - peripheral neuropathy pain; start neurontin; use oxycodone prn until
   the neurontin
s therapy becomes effective
   .
   # HTN: Currently not hypertensive, holding meds.
   .
   # Agitation/aggression; start ativan prn; discontinue haldol; fall risk
   precautions
   .
   # Gout: Holding meds.
   .
   FEN: IVF, replete electrolytes, OG tube too high, will need to be
   adjusted, Wills start TF after nutrition consult and NGT adjusted
   Prophylaxis: Subcutaneous heparin
   Access: 2 18g peripherals; CVL; pull A-line today; plan for PICC
   tomorrow and then pull CVL
   Code:  Full (discussed with Wife and daughters. )
   Communication: Wife.
   Disposition: pending clinical improvement; likely to floor tomorrow
   ICU Care
   Lines:
   18 Gauge - [**2193-11-24**] 02:50 PM
   Multi Lumen - [**2193-11-24**] 07:05 PM
   Arterial Line - [**2193-11-24**] 11:49 PM

2193-11-26 12:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 yo man with DM, strep PNA meningitis and mastoiditis.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2193-11-25**] 07:00 PM
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-11-26**] 04:01 AM
   Vancomycin - [**2193-11-26**] 08:00 AM
   Bactrim (SMX/TMP) - [**2193-11-26**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-11-25**] 10:00 PM
   Haloperidol (Haldol) - [**2193-11-26**] 05:08 AM
   Morphine Sulfate - [**2193-11-26**] 06:00 AM
   Lorazepam (Ativan) - [**2193-11-26**] 10:05 AM
   Other medications:
   dexamathasone drops in ear
   cipro drops in ear
   dexamethasone
   protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Psychiatric / Sleep: Agitated, No(t) Delirious
   Flowsheet Data as of  [**2193-11-26**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 75 (71 - 113) bpm
   BP: 126/72(92) {107/60(82) - 167/153(156)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 17 (8 - 349)mmHg
   Total In:
                                                                  5,946 mL
                                                                  1,309 mL
   PO:
   TF:
   IVF:
                                                                  5,946 mL
                                                                  1,309 mL
   Blood products:
   Total out:
                                                                  2,218 mL
                                                                  1,310 mL
   Urine:
                                                                  2,218 mL
                                                                  1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,728 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (520 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.40/27/95.[**Numeric Identifier **]/15/-5
   Ve: 12.6 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   150 K/uL
   239 mg/dL
   1.7 mg/dL
   15 mEq/L
   4.2 mEq/L
   30 mg/dL
   110 mEq/L
   138 mEq/L
   34.2 %
   13.6 K/uL
        [image002.jpg]
                            [**2193-11-25**]  12:27 AM
                            [**2193-11-25**]  03:36 AM
                            [**2193-11-25**]  02:18 PM
                            [**2193-11-25**]  04:45 PM
                             [**2193-11-26**]  02:29 AM
   WBC
   10.5
   13.6
   Hct
   33.1
   34.2
   Plt
   132
   150
   Cr
   1.4
   1.6
   1.7
   TCO2
   19
   17
   Glucose
   158
   248
   239
   Other labs: PT / PTT / INR:13.2/26.4/1.1, Differential-Neuts:83.3 %,
   Lymph:14.3 %, Mono:2.2 %, Eos:0.1 %, Lactic Acid:2.0 mmol/L,
   Albumin:3.0 g/dL, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Imaging: CT:  with opacification of right
   mastoid air cells, and right inner ear
   canal fluid.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 .H/O HYPOTENSION (NOT SHOCK)
 MENINGITIS, BACTERIAL
 DIABETES MELLITUS (DM), TYPE I
   Meningitis:  Continue vanco/CTX pending sensitivities.  Continue
   steroids for 1 more day.  Follow up on OSH sensitivities
   Acute renal failure:  creatinine stightly increased today.
   respiratory failure/sepsis:  much improved
   mastoiditis/middle ear infection:  improved
   neurontin for peripheral neuropathy
   ativan for anxiety/sleep
   DM: increase glargine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-11-24**] 02:50 PM
   Multi Lumen - [**2193-11-24**] 07:05 PM
   Arterial Line - [**2193-11-24**] 11:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2193-11-27 08:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Sugars better controlled; will call [**Last Name (un) 294**] consult for family in AM
   - Gabapentin started
   - Bactrim d/c'ed
   - Vanc trough tonight
   - A1C, lipids
   - a line pulled, PICC tomorrow
   - Zyprexa, oxycodone, Ativan initiated
   - Morphine d/c'ed
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-11-26**] 04:01 AM
   Bactrim (SMX/TMP) - [**2193-11-26**] 08:30 AM
   Vancomycin - [**2193-11-26**] 08:49 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-11-26**] 04:00 PM
   Lorazepam (Ativan) - [**2193-11-27**] 06:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-11-27**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 83 (64 - 91) bpm
   BP: 133/78(91) {101/53(42) - 134/83(92)} mmHg
   RR: 25 (18 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 97 (97 - 97)mmHg
   Total In:
                                                                  1,880 mL
                                                                  1,032 mL
   PO:
                                                                    300 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,580 mL
                                                                    792 mL
   Blood products:
   Total out:
                                                                  2,624 mL
                                                                    750 mL
   Urine:
                                                                  2,624 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -744 mL
                                                                    282 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   168 K/uL
   11.0 g/dL
   120 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.6 mEq/L
   39 mg/dL
   114 mEq/L
   144 mEq/L
   31.6 %
   12.2 K/uL
        [image002.jpg]
                            [**2193-11-25**]  12:27 AM
                            [**2193-11-25**]  03:36 AM
                            [**2193-11-25**]  02:18 PM
                            [**2193-11-25**]  04:45 PM
                             [**2193-11-26**]  02:29 AM
                             [**2193-11-26**]  05:35 PM
                             [**2193-11-27**]  03:16 AM
   WBC
   10.5
   13.6
   12.2
   Hct
   33.1
   34.2
   31.6
   Plt
   132
   150
   168
   Cr
   1.4
   1.6
   1.7
   1.9
   1.8
   TCO2
   19
   17
   Glucose
   158
   248
   239
   120
   Other labs: PT / PTT / INR:12.9/23.2/1.1, Differential-Neuts:83.3 %,
   Lymph:14.3 %, Mono:2.2 %, Eos:0.1 %, Lactic Acid:2.0 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR [**2193-11-26**]
   IMPRESSION: AP chest compared to [**11-24**]:
   Following extubation, lung volumes are well maintained, and interval
   widening
   of the upper mediastinum is probably due to increased caliber of the
   mediastinal veins. If there is concern for mediastinal adenopathy a CT
   scan
   would be required for assessment. Lungs are clear. Heart shadow is top
   normal in size. No appreciable pleural effusion. Right jugular vein has
   been
   withdrawn to the mid SVC.
   Microbiology: [**2193-11-24**] 11:51 pm EAR      Source: Ear, middle ear for
   otitis media.
      GRAM STAIN (Final [**2193-11-25**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    SPARSE GROWTH.
   Assessment and Plan
   59 yo M with DM who presents with fever/MS change found to have LP
   consistent with bac. meningitis and mastoiditis.
   .
   # Meningitis: Likely bacerial given purulent LP and GPCs on G stain.
   Likely strep pneumo. Other et. include N. meningidities, lysteria.
   Less likely viral at this time.  Patient with a source for meningitis -
   mastoiditis, making lysteria less likely.  Holding acyclovir at this
   time given low prob of viral infection.  One thing interesting on the
   CSF report was a mention fr intracellular orgamisms.  Patient was in ME
   and is at risk for intracellular orgamisms such as rickettsial
   diseases.  However that would be more likely to present as an aseptic
   meningitis as opposed to an acute bacterial meningitis.  Also, his ear
   cultures are growing GNR and GPR
   - get OSH sensitivities
   -Vancomycin 1g q12; Ceftriaxone 2g q12, continue; check vanco trough
   - d/c bactrim (as strep pneumo, not listeria as the bacteria)
   - Will treat for mastoiditis time course, need to look up time course
   for this.
   -Dexamethasone 6mg IV q8
   .
   # Respiratory failure/Sepsis: At this time, strongly suspect source is
   acute mastoiditis --> Meningitis.  Have been called by OSH with 2 sets
   positive blood Cx - both GPC.  Patient without evidence of pneumonia,
   Patient intubated given tachypnea and concern for wearing out.  Likely
   tachypnic given underlying sepsis.  Resolved
 extubated and breathing
   comfortably.
   -Abx per above.
   .
   # Mastoiditis: History consistent with acute mastoiditis.  Given the
   fact that he is diabetic raises the concern for polymicrobial infection
   as well as pseudamonas.  However given the fact that he has GPC in CSF
   andf blood, it is likely that is the causative orgamism.  Ceftriaxone
   is decent for coverage of mastoiditis although does lack pseudamonas
   coverage.  Will defer ABX changes to ENT.
   -f/u ENT recs
   - clinically improving, so hold on further imaging
   -cont ABX.
   -If does not improve consider involving ID (hold on this).
   .
   # Diabetes: Currently not well controlled.  Was on insulin gtt while
   intubated.  Resumed oral meds now that not intubated.
   - increase glargine
   - increase ISS (particularly while on steroids)
   - peripheral neuropathy pain; start neurontin; use oxycodone prn until
   the neurontin
s therapy becomes effective
   .
   # HTN: Currently not hypertensive, holding meds.
   .
   # Agitation/aggression; start ativan prn; discontinue haldol; fall risk
   precautions
   .
   # Gout: Holding meds.
   .
   FEN: IVF, replete electrolytes, OG tube too high, will need to be
   adjusted, Wills start TF after nutrition consult and NGT adjusted
   Prophylaxis: Subcutaneous heparin
   Access: 2 18g peripherals; CVL; pull A-line today; plan for PICC
   tomorrow and then pull CVL
   Code:  Full (discussed with Wife and daughters. )
   Communication: Wife.
   Disposition: pending clinical improvement; likely to floor tomorrow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-11-24**] 02:50 PM
   Multi Lumen - [**2193-11-24**] 07:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-11-27 11:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 yo man with meningitis, ear infection.  Doing well
   24 Hour Events:
 ARTERIAL LINE - STOP [**2193-11-26**] 07:05 PM
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-11-26**] 04:01 AM
   Bactrim (SMX/TMP) - [**2193-11-26**] 08:30 AM
   Vancomycin - [**2193-11-26**] 08:49 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-11-26**] 04:00 PM
   Lorazepam (Ativan) - [**2193-11-27**] 06:31 AM
   Other medications:
   hep s/q
   CTX
   dexamethasone
   protonix
   SSI
   olanzipine
   gapapentin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Flowsheet Data as of  [**2193-11-27**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 65 (64 - 91) bpm
   BP: 121/77(84) {101/53(42) - 136/83(92)} mmHg
   RR: 20 (18 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 97 (97 - 97)mmHg
   Total In:
                                                                  1,880 mL
                                                                  1,112 mL
   PO:
                                                                    300 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,580 mL
                                                                    872 mL
   Blood products:
   Total out:
                                                                  2,624 mL
                                                                  1,250 mL
   Urine:
                                                                  2,624 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -744 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   168 K/uL
   120 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.6 mEq/L
   39 mg/dL
   114 mEq/L
   144 mEq/L
   31.6 %
   12.2 K/uL
        [image002.jpg]
                            [**2193-11-25**]  12:27 AM
                            [**2193-11-25**]  03:36 AM
                            [**2193-11-25**]  02:18 PM
                            [**2193-11-25**]  04:45 PM
                             [**2193-11-26**]  02:29 AM
                             [**2193-11-26**]  05:35 PM
                             [**2193-11-27**]  03:16 AM
   WBC
   10.5
   13.6
   12.2
   Hct
   33.1
   34.2
   31.6
   Plt
   132
   150
   168
   Cr
   1.4
   1.6
   1.7
   1.9
   1.8
   TCO2
   19
   17
   Glucose
   158
   248
   239
   120
   Other labs: PT / PTT / INR:12.9/23.2/1.1, Differential-Neuts:83.3 %,
   Lymph:14.3 %, Mono:2.2 %, Eos:0.1 %, Lactic Acid:2.0 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: coag neg staph from ear.
   Awaiting sensitivities for strep PNA.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 .H/O HYPOTENSION (NOT SHOCK)
 MENINGITIS, BACTERIAL
 DIABETES MELLITUS (DM), TYPE I
   Stop dexamethasone.
   Family wishes [**Last Name (un) 294**] consult.
   Continue Vanco/CXT for meningitis pending sensitivites.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-11-24**] 02:50 PM
   Multi Lumen - [**2193-11-24**] 07:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes